US07407966B2
Step D: Preparation of 6,7-dihydro-N-(1-ethylpiperidin-4-yl)-4-hydroxy-7-isopropyl-6-oxothieno[2,3-b]pyridine-5-carboxamide
A solution of methyl 6,7-dihydro-4-hydroxy-7-isopropyl-6-oxothieno-[2,3-b]pyridine-5-carboxylate (0.22 g, 0.82 mmol), 1-ethylpiperidin-4-amine (0.44 g, 1.24 mmol) and diisopropylethylamine (0.35 mL, 2.48 mmol) in xylene (3 mL) was heated at 120° C. for 2 h. The reaction mixture was cooled to room temperature, washed with water and concentrated under reduced pressure. The residue was purified by silica gel flash column chromatography eluted with 3% methanol-dichloromethane to give the title compound (0.20 g, 67% yield) as an off-white solid. 1H NMR (400 MHz, CDCl3): δ 10.34 (br s, 1 H, 7.37 (d, 1 H, 6.95 (d, 1 H, 4.01 (m, 2 H, 3.03 (m, 2 H, 2.63 (d, 2 H, 2.41 (m, 2 H, 2.12 (d, 2 H, 1.81 (q, 2 H, 1.62 (d, 6 H, 1.18 (t, 3 H; MS: m/e 364 (M+H+).

reactant | methyl 6,7-dihydro-4-hydroxy-7-isopropyl-6-oxothieno-[2,3-b]pyridine-5-carboxylate | 0.82 mmol, 0.22 g | OC=1C2=C(N(C(C1C(=O)OC)=O)C(C)C)SC=C2 | C12H13NO4S
reactant | 1-ethylpiperidin-4-amine | 1.24 mmol, 0.44 g | C(C)N1CCC(CC1)N | C7H16N2
reactant | diisopropylethylamine | 2.48 mmol, 0.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | xylene | 3 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 6,7-dihydro-N-(1-ethylpiperidin-4-yl)-4-hydroxy-7-isopropyl-6-oxothieno[2,3-b]pyridine-5-carboxamide | 0.20 g, 67% yield | C(C)N1CCC(CC1)NC(=O)C1=C(C2=C(N(C1=O)C(C)C)SC=C2)O | C18H25N3O3S
